US06784167B2
A cold (−76° C.), stirred solution of oxalyl chloride (0.8 mole) in dichloromethane (1.4 L) was treated with dimethyl sulfoxide (116 mL, 1.64 mole) over 40 minutes while keeping the internal temperature below −60° C. After stirring the solution for 45 minutes, a solution containing (−)-(4R*,5R*)-5-hydroxymethyl-1-methyl-4-phenylpyrrolidin-2-one (150 g, 0.73 mole) in dichloromethane (1L) was added over a 30 minute period (T<−60° C.) and stirring continued for 45 minutes. Hunig's base (diisopropylethylamine, 509 mL, 2.92 mole) was then added dropwise (T<−60° C.), the mixture was stirred for 45 minutes and then quenched with 1N hydrochloric acid solution (cold, 1.5L) while warming to 0° C. The layers were separated and the organic layer was washed twice with hydrochloric acid (700 mL of 2N, then 500 mL of 1N), dried over magnesium sulfate, filtered and concentrated in vacuo to give (−)-(4R*,5R*)-5-formyl-1-methyl-4-phenylpyrrolidin-2-one as tan, crystalline solids, 137 g (93%). NMR (CDCl3) 67 2.81 (m, 2, CH2), 2.91 (s,3H, CH3) 4.02 (q, J=9 Hz, 1H, CH), 4.38 (dd, J=9.1, 1.9 Hz), 7.21-7.39 (m, 5H, Ar), 9.17 (d, J=1.9 Hz, 1H, CHO).

reactant | oxalyl chloride | 0.8 mole | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 1.64 mole, 116 mL | CS(=O)C | C2H6OS
reactant | (−)-(4R*,5R*)-5-hydroxymethyl-1-methyl-4-phenylpyrrolidin-2-one | 0.73 mole, 150 g | OC[C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1 | C12H15NO2
reactant | Hunig's base | 2.92 mole, 509 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 1.4 L | ClCCl | CH2Cl2
product | (−)-(4R*,5R*)-5-formyl-1-methyl-4-phenylpyrrolidin-2-one | C(=O)[C@H]1[C@H](CC(N1C)=O)C1=CC=CC=C1 | C12H13NO2
